* Auto-generated simulation netlist for case: ccp_gec_level1_fixed_match
.param C1=1.56353083664e-09
.param C2=4.38739580259e-11
.param Csh=3.50171654808e-11
.param L1=1.59318796502e-07
.param Vsrc_amp=264.361463814
.param ne=8.03020063606e+14
.param nu_m=72673169.0045

* Sources
Vsrc src 0 SIN(0 264.361463814 13560000 0 0 0)

* Circuit
C1 src 0 {C1}
L1 src electrode {L1}
C2 electrode 0 {C2}

* Optional load
* load model: plasma_state_rlc
.subckt load_model p n
Rbulk p nb 10.0182557277
Lbulk nb ns 1.37853569136e-07
Csh ns n 3.50171654808e-11
Rleak p n 1e+12
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
